* IHP mos_tt ACDC — leung_nmcf_pin_3 (NMCF)
.title leung_nmcf_pin_3 ihp mos_tt ACDC

.lib "../../../../models/pdk/ihp-sg13g2/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

.include ./params.spice
.include ./dut.spice

.param supply_voltage={VDD}
.param vcm_val={VCM}

Vdd vdd 0 {supply_voltage}
Vss vss 0 0

Vindc opin 0 {vcm_val}
Vin  signal_in 0 dc {vcm_val} ac 1

Lfb opout opout_dc 1T
Cin opout_dc signal_in 1T

X1 vss vdd opout_dc opin opout leung_nmcf_pin_3
Cload1 opout 0 {CLOAD}

vcmdc cm0 0 {vcm_val}
vcmac1 cm1 cm0 0 ac=1
vcmac2 cm2 cm3 0 ac=1
X2 vss vdd cm2 cm1 cm3 leung_nmcf_pin_3
Cload2 cm3 0 {CLOAD}

VVDDApsrr vddpsrr 0 {supply_voltage} AC=1
X3 vss vddpsrr ppsr1 opin ppsr1 leung_nmcf_pin_3
Cload3 ppsr1 0 {CLOAD}

VGNDApsrr gndpsrr 0 0 AC=1
X4 gndpsrr vdd npsr1 opin npsr1 leung_nmcf_pin_3
Cload4 npsr1 0 {CLOAD}

X5 vss vdd vout6 opin vout6 leung_nmcf_pin_3
Cload5 vout6 0 {CLOAD}

.control
set filetype=ascii
set units=degrees
option savecurrents

op
let idd_op = -i(vdd)
print v(opout) v(opout_dc) v(vout6)
echo GM_BEGIN
print @n.x1.xm8.nsg13_lv_pmos[gm]
print @n.x1.xm9.nsg13_lv_pmos[gm]
print @n.x1.xm10.nsg13_lv_pmos[gm]
print @n.x1.xm23.nsg13_lv_nmos[gm]
print @n.x1.xm11.nsg13_lv_pmos[gm]
print @n.x1.xm8.nsg13_lv_pmos[gds]
print @n.x1.xm10.nsg13_lv_pmos[gds]
print @n.x1.xm23.nsg13_lv_nmos[gds]
print @n.x1.xm22.nsg13_lv_nmos[gds]
print @n.x1.xm6.nsg13_lv_pmos[gds]
print @n.x1.xm8.nsg13_lv_pmos[ids]
print @n.x1.xm10.nsg13_lv_pmos[ids]
print @n.x1.xm23.nsg13_lv_nmos[ids]
print @n.x1.xm11.nsg13_lv_pmos[ids]
echo GM_END
echo IDD_BEGIN
print idd_op
echo IDD_END

ac dec 40 1 1G
meas ac dcgain_ find vdb(opout) at=1
let dcgain = abs(dcgain_)
meas ac ugf_hz when vdb(opout)=0
meas ac phase_at_ugf find vp(opout) when vdb(opout)=0
let pm_deg = phase_at_ugf
meas ac cmrrdc find vdb(cm3) at=1
meas ac DCPSRp find vdb(ppsr1) at=1
meas ac DCPSRn find vdb(npsr1) at=1
let cmrr_dc_db = abs(cmrrdc)
let psrrp_dc_db = abs(DCPSRp)
let psrrn_dc_db = abs(DCPSRn)

wrdata ../sim/bode_mag.dat vdb(opout)
wrdata ../sim/bode_phase.dat vp(opout)
wrdata ../figures/bode_mag.dat vdb(opout)
wrdata ../figures/bode_phase.dat vp(opout)
wrdata ../figures/cmrr.dat vdb(cm3)
wrdata ../figures/psrrp.dat vdb(ppsr1)
wrdata ../figures/psrrn.dat vdb(npsr1)
wrdata ../sim/cmrr.dat vdb(cm3)
wrdata ../sim/psrrp.dat vdb(ppsr1)
wrdata ../sim/psrrn.dat vdb(npsr1)

echo METRICS_BEGIN
print dcgain ugf_hz pm_deg cmrr_dc_db psrrp_dc_db psrrn_dc_db
echo METRICS_END

noise v(opout) Vin dec 20 1 100Meg
setplot noise1
wrdata ../sim/noise.dat inoise_spectrum
wrdata ../figures/noise.dat inoise_spectrum

.endc
.end
